US08476280B2
Sodium hydride (60% dispersion in oil, 250 mg (150 mg NaH, 6.25 mmol)) was washed with anhydrous tetrahydrofuran (2×5 mL) and anhydrous tetrahydrofuran (10 mL) was added as supernatant. 4-((alpha-R)-alpha-((2S,5R)-4-Allyl-2,5-Dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N,N-diethylbenzamide (435 mg, 1.0 mmol) was dissolved in the stirred suspension, and when effervescence had subsided, sodium iodide (15 mg, 0.1 mmol) was added. Methyl chloroacetate (350 mL, 434 mg, 4 mmol) was added to the stirred suspension under nitrogen and the reaction was stirred overnight at ambient temperature. The reaction mixture was partially neutralized by the passage of carbon dioxide gas (from dry ice), then glacial acetic acid added until the suspension showed a pH of 5 as measured by moistened indicator strips. The reaction mixture was evaporated to dryness, and the residue partitioned between ethyl acetate (10 mL) and 1 M HCl (5 mL). The organic layer was extracted with 1 M HCl (2×3 mL) and the pH of the combined acidic extracts was adjusted to 8 with saturated sodium carbonate solution. The oily aqueous suspension was extracted with ethyl acetate (3×10 mL) and the combined organic extracts were dried over anhydrous sodium sulfate. The solution was evaporated to a yellow gum. The residue was dissolved in ethyl acetate and applied to an intermediate (4×15 cm) silica gel Biotage column and eluted with 10% ethanol in ethyl acetate. Fractions containing the product, as evidenced by t.l.c. (silica, EM60F254, 10% EtOH in EtOAc, Rf=0.52) were evaporated to dryness and dried at room temperature and 2 mm Hg to yield methyl 3-((alpha-R)-alpha-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-4-(diethylaminocarbonyl)benzyl)phenoxyacetate as a clear pale yellow gum. The residue was dissolved in ethanol (4 mL) and aqueous sodium hydroxide solution (2.5 M, 1.0 mL, 2.5 mmol) and stirred at room temperature for 6 h. The solution was evaporated to remove the bulk of the ethanol, and water (5 mL) was added. Evaporation was continued until approximately 4 mL of solution remained. A further 8 mL of water was added, and the solution was evaporated to approximately half its volume to ensure complete removal of ethanol. A small amount of suspended solid was removed by filtration, and the pH of the solution was adjusted to 6 with 3 M HCl. The solution was evaporated to dryness and the residue evaporated several times with absolute ethanol to ensure removal of water. The residue was extracted with ethanol (3×20 mL) and the combined ethanol extracts were filtered and evaporated to dryness. The gummy residue was triturated with ethyl acetate (5 mL), filtered, evaporated, and dried under high vacuum to yield 3-((alpha-R)-alpha-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-4-(diethylaminocarbonyl)benzyl)phenoxyacetic acid as a brittle white foam (52 mg, 9.5%). Calc. for C29H39N3O4 0.9 NaCl 0.5 H2O: C, 63.45; H, 7.20; N, 7.65. Found C, 63.83; H, 7.19; N, 7.25% 1H NMR (0.1 M NaOD in D2O, 300 MHz); δ 0.86 (d, J=6.3 Hz, 3H); 0.94 (t, J=7.1 Hz, 3H); 1.01 (d, J=6.1 Hz, 3H); 1.09 (t, J=7.2 Hz, 3H); 1.81 (t, J=11.3 Hz, 1H); 2.09 (t, J=11.2 Hz, 1H); 2.43 (m, 2H); 2.73 (m, 3H); 3.13 (q, J=7.1 Hz, 2H); 3.25 (dd, J=13.5, 5.8 Hz, 1H); 3.38 (q, J=7.2 Hz, 2H); 4.32 (s, 2H); 5.09 (s, 1H): 5.14 (d, J=7.8 Hz, 1H); 5.24 (s, 1H); 5.74 (m, 1H); 6.73 (s, 1H); 6.80 (s, 2H); 7.21 (m, 3H); 7.32 (d, J=8.2 Hz, 2H). Mass spectrum: (ESI-, −5 KV, MeOH); m/z: 493, (M+, 25%); 492.5, ((M−1)+, 100%).

reactant | Sodium hydride | 6.25 mmol, 250 mg | [H-].[Na+]
reactant | 4-((alpha-R)-alpha-((2S,5R)-4-Allyl-2,5-Dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N,N-diethylbenzamide | 1.0 mmol, 435 mg | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)O)C1=CC=C(C(=O)N(CC)CC)C=C1)C | C27H37N3O2
reactant | sodium iodide | 0.1 mmol, 15 mg | [I-].[Na+]
reactant | Methyl chloroacetate | 4 mmol, 350 mL, 434 mg | ClCC(=O)OC | C3H5ClO2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 3-((alpha-R)-alpha-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-4-(diethylaminocarbonyl)benzyl)phenoxyacetate | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@H](C1=CC=C(C=C1)C(=O)N(CC)CC)C=1C=C(OCC(=O)OC)C=CC1)C | C30H41N3O4
